data/mechanisms/records/IMS9-EQ9.11.json
{"mechanism_id": "IMS9-EQ9.11", "species": [{"species_id": "cyclohexene_molecular_ion", "mapped_smiles": "[CH+:1]1[CH:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_allyl_cation", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][CH+:1][CH:2]=[CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_butadiene_radical_cation", "mapped_smiles": "[CH2:6][CH+:1][CH:2]=[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral_loss", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclohexene_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_allyl_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_butadiene_radical_cation", "ethylene_neutral_loss"]}], "steps": [{"step_id": "step_alpha1_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha2_ethylene_loss", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha1_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 237, "equation": "9.11", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (retro-Diels-Alder of the cyclohexene molecular ion)"}, "confidence": 0.8, "curator_note": "First (ring-opening) alpha cleavage of the stepwise retro-Diels-Alder of cyclohexene. Book draws 0 arc(s) for this step inside eq 9.11: eq 9.11 branches off the same neutral cyclohexene structure through a bare arrow labelled only 'alpha', so the arrows for the ionization and this first cleavage are not repeated here. The identical ring-opening alpha cleavage IS drawn with 2 arcs one line above on the same page, on the cyclohexene molecular ion of eq 9.10; moves <1,2> correspond to those two printed arcs (dot on map 2 into the forming map2=map3 pi bond; one electron of the map3-map4 sigma bond into that same pi bond) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). LOCALIZATION (convention B): molecular ion written localized as C1(+)-C2(.) exactly as printed. The '-e-' ionization of neutral cyclohexene drawn on the page is not encoded as a step (electron count is not conserved by ionization); the record starts at [M]+. m/z 82."}, {"evidence_id": "evidence_step_alpha2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha2_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 237, "equation": "9.11", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (retro-Diels-Alder, charge retention on C4H6)"}, "confidence": 0.85, "curator_note": "Second alpha cleavage, which completes the retro-Diels-Alder: the primary radical (map 4) drives homolysis of the map5-map6 bond, expelling neutral ethylene (drawn on the page as the bare vertical double line) and retaining the charge on the C4H6 fragment, m/z 54. Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page - the book prints the dot on the C4H6 product instead). Drawn arc 1 = the fishhook from the printed dot (map 4) into the map4-map5 bond; drawn arc 2 = the fishhook from the map5-map6 bond into that same forming pi bond. LOCALIZATION / RESONANCE (convention C): the intermediate is printed here fully localized - '+' beside the lower-right vertex (map 1) and the double bond drawn on the upper-right diagonal (map2=map3) - and this record uses exactly that form; the m/z 54 product is likewise printed as the DISTONIC form .CH2-CH(+)-CH=CH2 (dot on map 6, '+' on map 1), not as the closed butadiene radical cation CH2=CH-CH=CH2(+.), and this record encodes the drawn distonic form (same species by resonance, C4H6+., m/z 54). NO PRINTED INTENSITY: 'm/z 54' is labelled but no percentage appears anywhere in eq 9.11, so relative_intensity is omitted (the 80% figure for cyclohexene's m/z 54 quoted in chapter 4 is not on this page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 82.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_54", "species_id": "distonic_butadiene_radical_cation", "step_id": "step_alpha2_ethylene_loss", "observed_mz": 54.0464, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
